US06288070B1
Preparation of Methyl N-(5-cyanoimidazol-4-yl)acetimidate
5 g of 4-amino-5-cyanoimidazole was suspended in 10 mL of DMF and 10 mL of trimethyl orthoacetate was added, followed by stirring at 90° C. for 30 minutes. The reaction solution was concentrated under reduced pressure and the residue was dilute with ethyl acetate, and then 4.2 g of desired compound deposited as a crystal was collected by filtration. The solution was concentrated and the residue was purified by silica gel column chromatograpy (eluent: ethyl acetate) and then recrystallized from ethyl acetate-n-hexane to obtain 2.9 g of a desired compound as a crystal.

reactant | 4-amino-5-cyanoimidazole | 5 g | NC=1N=CNC1C#N | C4H4N4
reactant | trimethyl orthoacetate | 10 mL | C(C)(OC)(OC)OC | C5H12O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl N-(5-cyanoimidazol-4-yl)acetimidate | 2.9 g | C(#N)C1=C(N=CN1)N=C(C)OC | C7H8N4O
